US04335127
A mixture of 6 parts of 3-(2-chloroethyl)-1-phenyl-2,4(1H,3H)-quinazolinedione, 8.3 parts of (4-fluorophenyl) (4-piperidinyl)methanone and 48 parts of ethanol is stirred and refluxed. N,N-dimethylformamide is added at reflux temperature till all solid enters solution. Stirring is continued overnight at reflux. The reaction mixture is evaporated. The residue is purified twice by column-chromatography over silica gel using first a mixture of trichloromethane and methanol (95:5 by volume) and then a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 2-propanol, yielding 2.2 parts (23%) of 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-1-phenyl-2,4(1H,3H)-quinazolinedione; mp. 166.1° C.

reactant | 3-(2-chloroethyl)-1-phenyl-2,4(1H,3H)-quinazolinedione | ClCCN1C(N(C2=CC=CC=C2C1=O)C1=CC=CC=C1)=O | C16H13ClN2O2
reactant | (4-fluorophenyl) (4-piperidinyl)methanone | FC1=CC=C(C=C1)C(=O)C1CCNCC1 | C12H14FNO
reactant | ethanol | C(C)O | C2H6O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-1-phenyl-2,4(1H,3H)-quinazolinedione | 23% | FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(N(C3=CC=CC=C3C2=O)C2=CC=CC=C2)=O)C=C1 | C28H26FN3O3
